US08703784B2
A stirred solution of 3-(6-fluoroquinolin-3-yl)-5-[1-(tetrahydro-2H-pyran-4-ylamino)ethyl]pyrazolo[1,5-a]pyrimidin-7-amine (240 mg, 0.50 mmol) in anhydrous DMF (6 mL) was treated with sodium hydride (60% suspension in mineral oil, 59 mg, 1.5 mmol) in a single portion under an atmosphere of nitrogen. The resulting yellow-orange slurry was stirred at room temperature for 15 min, and tert-butyl 3-bromopropanoate (128 uL, 0.77 mmol) was added dropwise, gas evolution occurring during the addition. The mixture was stirred at room temperature overnight and was then quenched with water (15 mL) and extracted with EtOAc (2×25 mL). The combined organics were washed with water (3×20 mL) and brine (10 mL), dried over MgSO4, filtered, and concentrated in vacuo and the residue was purified by flash chromatography (40 g silica gel, 3-9% MeOH/DCM) to give tert-butyl 3-(3-(6-fluoroquinolin-3-yl)-5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)propanoate (185 mg, 69%) as a glassy solid. MS (ESI+) for C29H35FN6O3 m/z 535 (M+H)+; HPLC, 3.27 min (Method B).

reactant | 3-(6-fluoroquinolin-3-yl)-5-[1-(tetrahydro-2H-pyran-4-ylamino)ethyl]pyrazolo[1,5-a]pyrimidin-7-amine | 0.50 mmol, 240 mg | FC=1C=C2C=C(C=NC2=CC1)C=1C=NN2C1N=C(C=C2N)C(C)NC2CCOCC2 | C22H23FN6O
reactant | sodium hydride | 1.5 mmol, 59 mg | [H-].[Na+]
reactant | tert-butyl 3-bromopropanoate | 0.77 mmol, 128 uL | BrCCC(=O)OC(C)(C)C | C7H13BrO2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | tert-butyl 3-(3-(6-fluoroquinolin-3-yl)-5-(1-(tetrahydro-2H-pyran-4-ylamino)ethyl)pyrazolo[1,5-a]pyrimidin-7-ylamino)propanoate | 185 mg, 69% | FC=1C=C2C=C(C=NC2=CC1)C=1C=NN2C1N=C(C=C2NCCC(=O)OC(C)(C)C)C(C)NC2CCOCC2 | C29H35FN6O3
